US06953650B2
A true spherical silica fine particle (“SEAHOSTER KEP150”, produced by Nippon Shokubai K.K.) having an average particle size of 1.5 μm (10 parts), 2 parts of a dispersant polymer (“JONCRYL 611”, acrylic acid ester styrene copolymer, produced by Johnson Polymer), 16 parts of methyl ethyl ketone and 64 parts of N-methylpyrrolidone were mixed, and the resulting mixture was put in a 200 ml-volume polyethylene-made container together with 30 parts of glass bead having a diameter of 2 mm and dispersed for 2 hours by a paint shaker (manufactured by Toyo Seiki) to obtain a silica fine particle dispersion.

reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
reactant | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | JONCRYL 611 | C=CC1=CC=CC=C1.C=CC(=O)O | InChI=1S/C8H8.C3H4O2/c1-2-8-6-4-3-5-7-8;1-2-3(4)5/h2-7H,1H2;2H,1H2,(H,4,5)
